US04963543
A mixture of 4-nitrobenzyl (4R,5S,6S)-3-[(2S,4S)-2-(1-methyl-1H-tetrazol-5-yl)thiomethyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-yl]thio-4-methyl-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (0.80 g), 20% palladium hydroxide on carbon (0.5 g), 0.05M phosphate buffer (pH 6.3, 30 ml) and tetrahydrofuran (30 ml) was stirred for 3 hours under atmospheric pressure of hydrogen at ambient temperature. After the catalyst was filtered off, the filtrate was concentrated under reduced pressure to remove the organic solvent. The residue was washed with ethyl acetate (30 ml×2) and evaporated in vacuo to remove the organic solvent. The residue was chromatographed on nonionic adsorption resin "Diaion HP-20" (Trademark, made by Mitsubishi Chemical Industries) (20 ml) eluting in turn with water (60 ml) and 10% aqueous acetone solution (120 ml). The fractions containing the desired compound were collected and lyophilized to give (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-4-methyl-3-[(2S,4S)-2-{(1-methyl-1H-tetrazol-5-yl)thiomethyl}pyrrolidin-4-ylthio]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid (0.23 g).

reactant | 4-nitrobenzyl (4R,5S,6S)-3-[(2S,4S)-2-(1-methyl-1H-tetrazol-5-yl)thiomethyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-yl]thio-4-methyl-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.80 g | CN1N=NN=C1SC[C@H]1N(C[C@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C32H34N8O10S2
reactant | phosphate | 0.05M, 30 ml, pH 6.3 | P(=O)([O-])([O-])[O-]
reactant | hydrogen | [H][H] | H2
catalyst | palladium hydroxide on carbon | 0.5 g | [OH-].[OH-].[Pd+2]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-4-methyl-3-[(2S,4S)-2-{(1-methyl-1H-tetrazol-5-yl)thiomethyl}pyrrolidin-4-ylthio]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | 0.23 g | O[C@H](C)[C@@H]1[C@H]2[C@H](C(=C(N2C1=O)C(=O)O)S[C@H]1C[C@H](NC1)CSC1=NN=NN1C)C | C17H24N6O4S2
